US06794395B1
(1) 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone
Prepared from 1-acetyl-6-methoxy-2-indolinone, triethyl orthobenzoate and acetic anhydride

reactant | 1-acetyl-6-methoxy-2-indolinone | C(C)(=O)N1C(CC2=CC=C(C=C12)OC)=O | C11H11NO3
reactant | triethyl orthobenzoate | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-methoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)OC)=C(C1=CC=CC=C1)OCC)=O | C20H19NO4
